US07683067B2
4-[(6-Chloropyridin-3-yl)sulfonyl]morpholine
A solution of triethylamine (0.27 mL, 1.94 mmol) and morpholine (0.085 mL, 0.97 mmol) in dry dichloromethane (2 mL) was added to a stirred suspension of 6-chloropyridine-3-sulfonyl chloride (0.204 g, 0.96 mmol; described in: Naegeli, C. et al. Helv. Chim. Acta. 1938, 21, 1746-1750) in dry dichloromethane (1 mL). The resulting clear solution was stirred at room temperature for 20 min. The solvent was evaporated and the residue was purified on a silica gel column using dichloromethane/methanol, (97:3), as the eluent to give 0.176 g (70% yield) of the title compound: 1H NMR (DMSO-d6, 400 MHz) δ 8.75 (dd, J=3, 1 Hz, 1H), 8.18 (dd, J=8, 3 Hz, 1H), 7.82 (dd, J=8, 1 Hz, 1H), 3.63 (m, 4H), 2.96 (m, 4H).

reactant | triethylamine | 1.94 mmol, 0.27 mL | C(C)N(CC)CC | C6H15N
reactant | morpholine | 0.97 mmol, 0.085 mL | N1CCOCC1 | C4H9NO
reactant | 6-chloropyridine-3-sulfonyl chloride | 0.96 mmol, 0.204 g | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 4-[(6-Chloropyridin-3-yl)sulfonyl]morpholine | 0.176 g, 70% yield | ClC1=CC=C(C=N1)S(=O)(=O)N1CCOCC1 | C9H11ClN2O3S
